US09029371B2
To a solution of 4-benzyl-2-(4-bromo-phenyl)-morpholine (2.1 g, 6.3 mmol) in THF (30 mL), at −78° C., was added dropwise t-butyl lithium (7.9 mL; 1.6 mol/l in heptanes; 12.6 mmol). The mixture was stirred for 20 min. at −78° C., and subsequently 2,6-dimethylbenzaldehyde (1 g, 7.6 mmol) was added. The mixture was allowed to warm to RT and stirred overnight. The resulting mixture was partitioned between water and EtOAc. The layers were separated. The organic layer was washed with water, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (EtOAc:heptanes 1:1) to afford [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanol (1.6 g), which was used as such in the next step.

reactant | 4-benzyl-2-(4-bromo-phenyl)-morpholine | 6.3 mmol, 2.1 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)Br | C17H18BrNO
reactant | t-butyl lithium | 12.6 mmol, 1.6 mol/l, 7.9 mL | C(C)(C)(C)[Li]
reactant | 2,6-dimethylbenzaldehyde | 7.6 mmol, 1 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanol | 1.6 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)C(O)C1=C(C=CC=C1C)C | C26H29NO2
